US09193693B2
2-(4-Fluorophenyl)-3-(3-methylpiperidin-1-yl)quinoxaline-6-carboxylic acid
Into a 8-mL sealed tube, was placed methyl 3-chloro-2-(4-fluorophenyl)quinoxaline-6-carboxylate (200 mg, 0.63 mmol, 1.00 equiv), 3-methylpiperidine (313 mg, 3.16 mmol, 5.00 equiv), DMSO (3 mL). The resulting solution was stirred for overnight at 110° C. in an oil bath. The reaction was then quenched by the addition of water. The pH value of the aqueous solution was adjusted to 3-4 with 1N hydrogen chloride. The resulting solids were collected by filtration. The crude product (240 mg) was purified by Prep-HPLC under the following conditions (1#-UV1-SHIMADZU-SPD-20A): Column, SunFire Prep C18, 5 um, 19*150 mm; mobile phase, water with 0.05% TFA and CH3CN (30% CH3CN up to 100% in 8 min, hold 100% in 1.5 min, down to 30% in 1 min); Detector, Gilson UV Detector 220 nm. This resulted in 75 mg (32%) of 2-(4-fluorophenyl)-3-(3-methylpiperidin-1-yl)quinoxaline-6-carboxylic acid as a yellow solid.

reactant | methyl 3-chloro-2-(4-fluorophenyl)quinoxaline-6-carboxylate | 0.63 mmol, 200 mg, 1.00 equiv | ClC=1C(=NC2=CC=C(C=C2N1)C(=O)OC)C1=CC=C(C=C1)F | C16H10ClFN2O2
reactant | 3-methylpiperidine | 3.16 mmol, 313 mg, 5.00 equiv | CC1CNCCC1 | C6H13N
solvent | DMSO | 3 mL | CS(=O)C | C2H6OS
product | 2-(4-Fluorophenyl)-3-(3-methylpiperidin-1-yl)quinoxaline-6-carboxylic acid | FC1=CC=C(C=C1)C1=NC2=CC=C(C=C2N=C1N1CC(CCC1)C)C(=O)O | C21H20FN3O2
